US06919328B1
2-Nitro-5,10-dihydro-dibenzo[b,e][1,4]diazepin-11-one
2-Chloro-4-nitrobenzoic acid methylester (15 g, 69.6 mmol), 1,2-diaminobenzene (69.6 mmol) and triethylamine (9.7 mL, 69.7 mmol) were heated together at 90° C. in DMSO for 4 hr then to 120C for 1hr. After this time, the reaction was diluted with water (50 mL) and a reddish-brown precipitate formed. The solid was filtered off and washed with methanol (2×30 mL) to give the desired product (yield 7.6 g, 43%).

reactant | 2-Chloro-4-nitrobenzoic acid methylester | 69.6 mmol, 15 g | COC(C1=C(C=C(C=C1)[N+](=O)[O-])Cl)=O | C8H6ClNO4
reactant | 1,2-diaminobenzene | 69.6 mmol | NC1=C(C=CC=C1)N | C6H8N2
reactant | triethylamine | 69.7 mmol, 9.7 mL | C(C)N(CC)CC | C6H15N
reactant | DMSO | CS(=O)C | C2H6OS
solvent | water | 50 mL | O | H2O
product | 2-Nitro-5,10-dihydro-dibenzo[b,e][1,4]diazepin-11-one | yield 7.6 g, 43% | [N+](=O)([O-])C1=CC2=C(NC3=C(NC2=O)C=CC=C3)C=C1 | C13H9N3O3
